US05206240
Step A: Preparation of 3,4-Dihydro-1'-methyl-6-nitro-spiro-[(2H)-1-benzopyran-2,4'-piperidin]-4-one
Sulfuric acid (55 ml) was cooled to 0° C. and was stirred as 3,4-dihydro-1'-methyl-spiro[2H-1-benzopyran-2,4'-piperidin]-4-one (11.56 g, 0.05 mol) was added over 20 minutes. Some gum separated. A solution of 90% nitric acid (2.5 ml, 0.0525 mol) in sulfuric acid (5 ml) was added over 20 minutes. The mixture was stirred for 2 hours at 0° C. and then for 1 hour at room temperature. A solution resulted but nitration was not complete. 90% Nitric acid (0.3 ml, 0.007 mol) was added and stirring was continued for 11/2 hours at room temperature. The reaction solution was poured into a mixture of ice, ethyl acetate, and sodium bicarbonate (210 g). The basic mixture was filtered, the ethyl acetate layer was separated and the aqueous layer was extracted with ethyl acetate (150 ml). The combined ethyl acetate extracts were washed with saturated NaCl, dried, filtered and concentrated in vacuo to yield 10.6 g (77%) of product

reactant | 3,4-dihydro-1'-methyl-spiro[2H-1-benzopyran-2,4'-piperidin]-4-one | 0.05 mol, 11.56 g | CN1CCC2(CC1)OC1=C(C(C2)=O)C=CC=C1 | C14H17NO2
reactant | nitric acid | 0.0525 mol, 2.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | Nitric acid | 0.007 mol, 0.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 210 g | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | Sulfuric acid | 55 ml | S(O)(O)(=O)=O | H2O4S
product | 3,4-Dihydro-1'-methyl-6-nitro-spiro-[(2H)-1-benzopyran-2,4'-piperidin]-4-one | 10.6 g, 77% | CN1CCC2(CC1)OC1=C(C(C2)=O)C=C(C=C1)[N+](=O)[O-] | C14H16N2O4
